US07608629B2
2-Chloro-4-fluoro-N-[3-fluoro-5-(1-methyl-piperidin-4-ylsulfanyl)-phenyl]-benzamide
Combine 3-fluoro-5-(1-methyl-piperidin-4-ylsulfanyl)-phenylamine (preparation 114, 0.11 g, 0.46 mmol), 1,4-dioxane (5 mL) and 2-chloro-4-fluoro-benzoyl chloride (0.09 g, 0.46 mmole), stir and heat at reflux. After 3 hr., cool to ambient temperature. Load on an SCX column (10 g), wash with methanol, elute with 2M ammonia/methanol. Concentrate eluent. Purify residue by silica gel flash chromatography eluting with 10% (2M NH3/methanol)/methylene dichloride to obtain the title compound (0.03 g, 17%). Mass spectrum: Obs. m/z 397.0974; calc. m/z 397.0953; 1H NMR (CDCl3) free base: 7.9 (bs, 1H), 7.8 (m, 1H), 7.4 (m, 1H), 7.3 (s, 1H), 7.2 (m, 1H), 7.1 (m, 1H), 6.9 (m, 1H), 3.2 (m, 1H), 2.8 (m, 2H), 2.3 (s, 3H), 2.0 (m, 4H), 1.7 (m, 2H).

reactant | 3-fluoro-5-(1-methyl-piperidin-4-ylsulfanyl)-phenylamine | 0.46 mmol, 0.11 g | FC=1C=C(C=C(C1)SC1CCN(CC1)C)N | C12H17FN2S
reactant | 2-chloro-4-fluoro-benzoyl chloride | 0.46 mmole, 0.09 g | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-fluoro-N-[3-fluoro-5-(1-methyl-piperidin-4-ylsulfanyl)-phenyl]-benzamide | 0.03 g, 17% | ClC1=C(C(=O)NC2=CC(=CC(=C2)SC2CCN(CC2)C)F)C=CC(=C1)F | C19H19ClF2N2OS
